US07750167B2
5-Chloro-2-fluoro-benzylbromide (630 g, purity according to GC 72% a/a, 2.42 mol) was heated at 100° C. and triethylphosphite (403 g, 2.42 mol) was added slowly in 1 h 45. The mixture was stirred for 2 hours at 100° C., and slowly THF (350 ml) was added and distilled off, until no ethylbromide was detected by NMR. To isolate the crude (5-chloro-2-fluoro-benzyl)-phosphonic acid diethyl ester the reaction mixture was cooled to room temperature, yielding 681 grams (100%).

reactant | 5-Chloro-2-fluoro-benzylbromide | 2.42 mol, 630 g | ClC=1C=CC(=C(CBr)C1)F | C7H5BrClF
reactant | triethylphosphite | 2.42 mol, 403 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | (5-chloro-2-fluoro-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)Cl)F | C11H15ClFO3P
